US07256218B2
Preparation of 3-(2-chloro-4-trifluoromethoxyphenoxy)propyl methane sulfonate, a compound of the formula IV
To a solution of 3-(2-chloro-4-trifluoromethoxyphenoxy)-propanol (20 g, 0.074 mole) in 100 mL of dichloromethane at 0° C. was added methanesulfonyl chloride (6.83 mL, 0.089 mole) and triethylamine (20.5 mL, 0.148 mole). The resulting solution was stored in a refrigerator overnight. The solution was then washed with 100 mL of cooled, diluted HCl-H2O solution. The organic layer was separated, dried over MgSO4, filtered and evaporated of solvent to yield 25.4 g of the product.

reactant | 3-(2-chloro-4-trifluoromethoxyphenoxy)-propanol | 0.074 mole, 20 g | ClC1=C(OCCCO)C=CC(=C1)OC(F)(F)F | C10H10ClF3O3
reactant | methanesulfonyl chloride | 0.089 mole, 6.83 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 0.148 mole, 20.5 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 3-(2-chloro-4-trifluoromethoxyphenoxy)propyl methane sulfonate | 25.4 g | CS(=O)(=O)OCCCOC1=C(C=C(C=C1)OC(F)(F)F)Cl | C11H12ClF3O5S
